US08389720B2
1-methyl-3-({[2-phenyl-2-(tetrahydro-2H-pyran-4-yl)ethyl]amino}methyl)quinolin-2 (1H)-one
1-methyl-2-oxo-1,2-dihydroquinoline-3-carbaldehyde (35 mg, 0.187 mmol), sodium acetate (19.94 mg, 0.243 mmol), and 2-phenyl-2-(tetrahydro-2H-pyran-4-yl)ethanaminium chloride (45.2 mg, 0.187 mmol) were combined in 1,2 dichloroethane (2 ml). Acetic acid (0.021 ml, 0.374 mmol) and sodium triacetoxyborohydride (119 mg, 0.561 mmol) were added and the reaction stirred for 20 hours. The mixture was partitioned between CH2Cl2 and satd. bicarb and the aqueous portion was extracted 3×CH2Cl2. The organic portion was dried (Na2SO4) and concentrated in vacuo. The resulting material was purified by reversed-phase chromatography (10-60% ACN in water (with 2 ml/l NH4OH) over 20 min at 20 ml/min, 20×100 mm Phenomenex Gemini C18 column). Desired fractions were concentrated in vacuo. 50.5 mg, 73%.

reactant | 1-methyl-2-oxo-1,2-dihydroquinoline-3-carbaldehyde | 0.187 mmol, 35 mg | CN1C(C(=CC2=CC=CC=C12)C=O)=O | C11H9NO2
reactant | sodium acetate | 0.243 mmol, 19.94 mg | C(C)(=O)[O-].[Na+]
reactant | 2-phenyl-2-(tetrahydro-2H-pyran-4-yl)ethanaminium chloride | 0.187 mmol, 45.2 mg | [Cl-].C1(=CC=CC=C1)C(C[NH3+])C1CCOCC1
reactant | Acetic acid | 0.374 mmol, 0.021 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.561 mmol, 119 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2 dichloroethane | 2 ml | ClCCCl | C2H4Cl2
product | 1-methyl-3-({[2-phenyl-2-(tetrahydro-2H-pyran-4-yl)ethyl]amino}methyl)quinolin-2 (1H)-one | CN1C(C(=CC2=CC=CC=C12)CNCC(C1CCOCC1)C1=CC=CC=C1)=O | C24H28N2O2
